US06479487B1
1-(3-Phenoxypropyl)-4-piperidone oxime is prepared from 1-(3-phenoxypropyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(3-phenoxypropyl)-4-piperidone | O(C1=CC=CC=C1)CCCN1CCC(CC1)=O | C14H19NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(3-Phenoxypropyl)-4-piperidone oxime | O(C1=CC=CC=C1)CCCN1CCC(CC1)=NO | C14H20N2O2
